US09403797B2
2-Chloro-5-iodopyridin-4-amine (2.0 g, 7.86 mmol) and paraformaldehyde (0.472 g, 15.7 mmol) were dissolved in AcOH (56.1 mL) and stirred for 2.5 hours at 40° C. Sodium triacetoxyborohydride (3.66 g, 17.3 mmol) was added and the mixture was stirred at 40° C. for 1.5 hours. Further sodium triacetoxyborohydride (3.66 g, 17.3 mmol) was added and the mixture was stirred for a further 19 hours. The reaction mixture was reduced in volume by half by evaporation in vacuo. Water was added to the mixture, followed by basification with NaHCO3. The mixture was extracted with EtOAc (3×70 mL) and the combined organic layers were dried over MgSO4. Silica was added and the solution was concentrated. Gradient chromatography, eluting with 5-10% EtOAc in c-Hex for 4 column volume and then 10% EtOAc in c-Hex for a further 11 column volume, gave 2-chloro-5-iodo-N-methylpyridin-4-amine (1.65 g, 6.14 mmol, 78% yield) as a white crystalline powder.

reactant | 2-Chloro-5-iodopyridin-4-amine | 7.86 mmol, 2.0 g | ClC1=NC=C(C(=C1)N)I | C5H4ClIN2
reactant | paraformaldehyde | 15.7 mmol, 0.472 g | C=O | CH2O
reactant | Sodium triacetoxyborohydride | 17.3 mmol, 3.66 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 17.3 mmol, 3.66 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | AcOH | 56.1 mL | CC(=O)O | C2H4O2
product | 2-chloro-5-iodo-N-methylpyridin-4-amine | 6.14 mmol, 1.65 g, 78% yield | ClC1=NC=C(C(=C1)NC)I | C6H6ClIN2
